US07786308B2
To a solution of 8-benzyl-1-phenyl-1,8-diazaspiro[4.5]decane-2,4-dione (2.3 g, 6.85 mmol) in methanol (50 mL) was added NaBH4 (0.78 g, 20.5 mmol) in portions at 15° C. The mixture was stirred for 1 h at 15° C. H2O (5 mL) was added slowly at 0° C. The solvent was removed under reduced pressure to give crude product, which was dissolved in EtOAc. The organic layer was washed with water, dried over Na2SO4 and evaporated to give 8-benzyl-4-hydroxy-1-phenyl-1,8-diazaspiro[4.5]decan-2-one, which was used directly in the next step.

reactant | 8-benzyl-1-phenyl-1,8-diazaspiro[4.5]decane-2,4-dione | 6.85 mmol, 2.3 g | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC=CC=C2)=O)=O)CC1 | C21H22N2O2
reactant | NaBH4 | 20.5 mmol, 0.78 g | [BH4-].[Na+]
reactant | H2O | 5 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-benzyl-4-hydroxy-1-phenyl-1,8-diazaspiro[4.5]decan-2-one | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC=CC=C2)=O)O)CC1 | C21H24N2O2
